US08242104B2
A solution of 4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (58 mg, 0.12 mmol) in DCM (0.5 mL) and methanol (0.3 mL) was treated with 4M HCl in dioxane (0.8 mL) and the reaction mixture stirred at RT for 1.5 h before being concentrated in vacuo. The resultant residue was triturated with diethyl ether to give 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene hydrochloride (66 mg, 100%). LCMS RT=1.68 min, [M+H]+=380

reactant | 4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.12 mmol, 58 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=N1 | C25H33N7O3
reactant | HCl | 4M | Cl | ClH
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.3 mL | CO | CH4O
solvent | dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene hydrochloride | 66 mg, 100% | Cl.C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=NC(=C3)C3CCNCC3 | InChI=1S/C20H25N7O.ClH/c1-13(2)27-20(23-12-24-27)17-11-26-7-8-28-18-9-16(14-3-5-21-6-4-14)22-10-15(18)19(26)25-17;/h9-14,21H,3-8H2,1-2H3;1H
